US04474602
To a solution of 155.7 g (0.772 mole) of methyl-2-chloro-6-methoxyisonicotinate dissolved in 2.0 liter of benzene was added a solution of 563 ml of 3.0M methyl magnesium bromide in diethyl ether (1.69 moles) dropwise over one hour. The slurry was heated at reflux for 1.5 hours and cooled to 10° C. in an ice bath. To the cold slurry was added dropwise a solution of 300 ml of concentrated hydrochloric acid dissolved in 1200 ml of water. The mixture was allowed to warm to room temperature and the organic layer separated and washed with water, 1N sodium hydroxide and dried (Na2SO4). Removal of solvent in vacuo afforded 142.3 g (91.4% yield) of desired 2-chloro-6-methoxy-α,α-dimethyl-4-pyridinemethanol.

reactant | methyl-2-chloro-6-methoxyisonicotinate | 0.772 mole, 155.7 g | COC(C1=CC(=NC(=C1)OC)Cl)=O | C8H8ClNO3
reactant | methyl magnesium bromide | 3.0M, 563 ml | C[Mg]Br
reactant | diethyl ether | 1.69 moles | C(C)OCC | C4H10O
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | water | 1200 ml | O | H2O
solvent | benzene | 2.0 liter | C1=CC=CC=C1 | C6H6
product | 2-chloro-6-methoxy-α,α-dimethyl-4-pyridinemethanol | 142.3 g, 91.4% yield | ClC1=NC(=CC(=C1)C(O)(C)C)OC | C9H12ClNO2
